US08030337B2
N-[2-(7,8-Dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]propionamide
N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide (28.7 mg, 0.112 mmol) was dissolved in methanol (1.1 mL), a 10% palladium-carbon powder (14 mg) was added, and the mixture was stirred at room temperature for 1.5 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (25.6 mg, yield 88%).

reactant | N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide | 0.112 mmol, 28.7 mg | O1C=NC2=C1C=1C(CCC1C=C2)=CCNC(CC)=O | C15H16N2O2
solvent | methanol | 1.1 mL | CO | CH4O
catalyst | palladium-carbon | 14 mg | [C].[Pd]
product | N-[2-(7,8-Dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]propionamide | 25.6 mg, yield 88% | O1C=NC2=C1C=1C(CCC1C=C2)CCNC(CC)=O | C15H18N2O2
